US04797414
To a suspension of 4.2 g 4-chloro-3-formyl-flav-3-ene in 10 ml pyridine is added a solution of 2.6 g 2,5-dihydroxy-1,4-dithian and 2.2 g triethylamine in 11 ml pyridine. After overnight stirring one adds slowly 100 ml water and the precipitate is collected, washed with water, dried, and crystallized in absolute ethanol. Pure 4H-4-phenyl-thieno[3,2-c][1]benzopyran-2-carboxaldehyde is obtained; m.p. 117°-118° C.

reactant | 4-chloro-3-formyl-flav-3-ene | 4.2 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | 2,5-dihydroxy-1,4-dithian | 2.6 g | OC1SCC(SC1)O | C4H8O2S2
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 11 ml | N1=CC=CC=C1 | C5H5N
product | 4H-4-phenyl-thieno[3,2-c][1]benzopyran-2-carboxaldehyde | C1(=CCCC=C1)C1OC2=C(C3=C1C=C(S3)C=O)C=CC=C2 | C18H14O2S
